US04604388
(S)-2-(2-Chloroethyl)2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride [1:1]
A solution of 47.4 g (0.3 mole) of 2-chloronicotinic acid and 30 g (0.3 mole) of -(S)-1-methyl-3-pyrrolidinol in 400 ml of tetrahydrofuran was added over a period of 1 hr to a stirred suspension of 26.4 g (0.66 mole) of 60% sodium hydride)mineral oil in 500 ml of tetrahydrofuran at 50°-60° C. The mixture was stirred at reflux for 2.5 hr and allowed to cool to 25° C. About 400 ml of methylene chloride was added to the slurry followed by the dropwise addition of 34.5 g (0.36 mole) of methane sulfonic acid in 100 ml of methylene chloride. The mixture was stirred 10 min and 157 g (0.6 mole) of triphenylphosphine was added followed in 200 ml of carbon tetrachloride. The mixture was heated to reflux for 1 hr. To the cooled (25° C.) solution was added at a rapid drop, 100 ml of triethylamine. The solution was concentrated on the rotary evaporator and the residue was partitioned between methylene chloride and dilute hydrochloric acid. The methylene chloride was extracted 6 times with dilute hydrochloric acid. The acid extracts were combined, made basic with sodium hydroxide and extracted with chloroform. The extract was dried over sodium sulfate and concentrated. The residue was dissolved in isopropyl alcohol and treated with a solution of hydrogen chloride in isopropyl alcohol. The resulting hydrochloride salt weighed 21 g (25%). One gram of the salt was recrystallized from isopropyl alcohol, m.p. 149°-151° C. [α]D25 =-38.3 (water).

reactant | 2-chloronicotinic acid | 0.3 mole, 47.4 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | (S)-1-methyl-3-pyrrolidinol | CN1C[C@H](CC1)O | C5H11NO
reactant | sodium hydride | 0.66 mole, 26.4 g | [H-].[Na+]
reactant | methane sulfonic acid | 0.36 mole, 34.5 g | CS(=O)(=O)O | CH4O3S
reactant | triphenylphosphine | 0.6 mole, 157 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | (S)-2-(2-Chloroethyl)2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one hydrochloride | Cl.ClCC[C@@H]1OC2=C(C(N(C1)C)=O)C=CC=N2 | InChI=1S/C11H13ClN2O2.ClH/c1-14-7-8(4-5-12)16-10-9(11(14)15)3-2-6-13-10;/h2-3,6,8H,4-5,7H2,1H3;1H/t8-;/m0./s1
